US04873251
N-[2-[(2-Hydroxypropyl)amino]-3-pyridinyl]-4-chlorobenzamide hydrochloride[1:1]
A mixture of 1-[(3-nitro-2-pyridinyl)amino]-2-propanol (9.9 g, 0.05 mole) and 5% palladium on carbon (1.0 g) in 150 ml of tetrahydrofuran was hydrogenated in a glass Parr apparatus for 1/2 hour. The mixture was dried over magnesium sulfate and filtered through a Celite pad to give a colorless filtrate. The p-chlorobenzoyl chloride (8.79 g, 0.05 mole) and triethylamine (6.98 ml, 0.05 mole) were added dropwise to the stirred filtrate at 12°-15° C. (ice bath). The reaction mixture was allowed to warm to ambient temperature overnight. The reaction mixture was filtered, and the filtrate was evaporated to dryness. The residue was recrystallized from isopropyl alcohol and water. The solid was collected by filtration, then treated with boiling methanol. The insoluble solid was collected by filtration, and the filtrate was evaporated to dryness, azeotroped with benzene, and dried under high vacuum. The residue was partitioned between water and methylene chloride. The methylene chloride was extracted with 5% potassium hydroxide and water. The methylene chloride layer was dried, filtered, and evaporated to a foam. A 1.5-g sample was dissolved in ethyl acetate, acidified with ethereal and methanolic hydrogen chloride, and seeded. The crystalline solid was collected by filtration, washed with ethyl acetate, and dried under high vacuum to give 1.2 g of solid, mp 178°-180° C.

reactant | 1-[(3-nitro-2-pyridinyl)amino]-2-propanol | 0.05 mole, 9.9 g | [N+](=O)([O-])C=1C(=NC=CC1)NCC(C)O | C8H11N3O3
reactant | p-chlorobenzoyl chloride | 0.05 mole, 8.79 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 0.05 mole, 6.98 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | N-[2-[(2-Hydroxypropyl)amino]-3-pyridinyl]-4-chlorobenzamide hydrochloride | 1.2 g | Cl.OC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)Cl)=O)C | InChI=1S/C15H16ClN3O2.ClH/c1-10(20)9-18-14-13(3-2-8-17-14)19-15(21)11-4-6-12(16)7-5-11;/h2-8,10,20H,9H2,1H3,(H,17,18)(H,19,21);1H
